US07709645B2
5-Bromo-3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (200 mg, 0.438 mmol), commercial 1H-pyrazole-3-boronic acid (73.6 mg, 0.637 mmol) and 1,1′-bis(diphenylphosphino)ferrocenepalladium(II)-dichloride dichloromethane adduct (17.8 mg, 0.022 mmol) were combined in dimethylformamide (1.4 mL) and 2 M saturated sodium carbonate (657 μL) under nitrogen. The mixture was heated to 165° C. in the microwave for 900 s. The mixture was diluted with ethyl acetate and the aqueous layer was removed. After drying over sodium sulfate, the crude material was purified by silica gel chromatography to afford 3-(2-methoxy-phenyl)-5-(1H-pyrazol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (156 mg, 80.2%). %). MS: m/z 445 (M+H+).

reactant | 5-Bromo-3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.438 mmol, 200 mg | BrC=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C21H17BrN2O3S
reactant | 1H-pyrazole-3-boronic acid | 0.637 mmol, 73.6 mg | N1N=C(C=C1)B(O)O | C3H5BN2O2
reactant | sodium carbonate | 2 M, 657 μL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 1.4 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-methoxy-phenyl)-5-(1H-pyrazol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 156 mg, 80.2% | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)C2=NNC=C2)S(=O)(=O)C2=CC=C(C=C2)C | C24H20N4O3S
